US04632925
Preparation of 4-(2,2-diphenylethyl)-1-[1-oxo-4-(3-pyridinyl)butyl]piperidine
The title compound was prepared in a manner similar to that employed for the compound of Example 10 starting with 5.3 g of 4-(2,2-diphenylethyl)piperidine free base and the acid chloride prepared from 5.0 g of 3-pyridine butanoic acid, there was obtained 7.0 g of oil from the toluene extracts. Crystallization from methylene chloride/ether provided 6.3 g (76%) of 4-(2,2-diphenylethyl)-1-[1-oxo-4-(3-pyridinyl)butyl]piperidine, mp 98°-100° C. Analysis Calculated for C28H32N2O: C, 81.51; H, 7.82; N, 6.79. Found: C, 81.43; H, 7.88; N, 6.53.

reactant | 4-(2,2-diphenylethyl)piperidine | 5.3 g | C1(=CC=CC=C1)C(CC1CCNCC1)C1=CC=CC=C1 | C19H23N
reactant | 3-pyridine butanoic acid | 5.0 g | N1=CC(=CC=C1)CCCC(=O)O | C9H11NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2,2-diphenylethyl)-1-[1-oxo-4-(3-pyridinyl)butyl]piperidine | C1(=CC=CC=C1)C(CC1CCN(CC1)C(CCCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C28H32N2O
